US05834506
1-(4-Benzyloxy-phenyl)-4-methyl-pent-1-ene-3-one
The title compound was prepared as described in the General Method 2 using 81.1 g (942 mmol) of 3-methyl-butan-2-one, 100 g (474 mmol) of 4-benzyloxy benzaldehyde, 10 g of anhydrous barium hydroxide and 500 mL of EtOH.

reactant | 3-methyl-butan-2-one | 942 mmol, 81.1 g | CC(C(C)=O)C | C5H10O
reactant | 4-benzyloxy benzaldehyde | 474 mmol, 100 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | barium hydroxide | 10 g | [OH-].[Ba+2].[OH-]
solvent | EtOH | 500 mL | CCO | C2H6O
product | 1-(4-Benzyloxy-phenyl)-4-methyl-pent-1-ene-3-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(C(C)C)=O | C19H20O2
